US09108984B2
Step G: Methyl 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate
A solution of methyl 6-amino-4-chloro-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate (3.2 g, 8.4 mmol) in tetrahydrofuran (8.1 mL), acetonitrile (8.1 mL), and water (9.3 mL) was cooled to −5° C. and treated with 12 M of hydrogen chloride in water (5.6 mL, 68 mmol) dropwise followed by a solution of sodium nitrite (1.2 g, 17 mmol) in water (6.3 mL)/acetonitrile (2.1 mL) and stirred at −5° C. for 30 minutes. This mixture was added to a solution of diethylamine (8.7 mL, 84 mmol) and potassium carbonate (7.0 g, 51 mmol) in water (76 mL)/acetonitrile (25 mL) that was cooled at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes and warmed to 20° C. The reaction mixture was diluted with saturated sodium bicarbonate (100 mL) and extracted with ethyl acetate (200 mL). The organic layer was separated, washed with brine, dried with sodium sulfate, filtered, and concentrated to a crude oil. Purification by flash column chromatography using dichloromethane in hexanes (0%-50%) gave the desired product (3.3 g, 86%). LCMS for C23H28ClFN3O2Si (M+H)+: m/z=460.2; Found: 459.8.

reactant | methyl 6-amino-4-chloro-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 8.4 mmol, 3.2 g | NC=1C(=C(C=C(C1C1=CC(=CC=C1)F)C(=O)OC)Cl)C#C[Si](C)(C)C | C19H19ClFNO2Si
reactant | hydrogen chloride | 12 M | Cl | ClH
reactant | sodium nitrite | 17 mmol, 1.2 g | N(=O)[O-].[Na+]
reactant | diethylamine | 84 mmol, 8.7 mL | C(C)NCC | C4H11N
reactant | potassium carbonate | 51 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 8.1 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 8.1 mL | C(C)#N | C2H3N
solvent | water | 6.3 mL | O | H2O
solvent | water | 76 mL | O | H2O
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.1 mL | C(C)#N | C2H3N
solvent | water | 68 mmol, 5.6 mL | O | H2O
solvent | water | 9.3 mL | O | H2O
product | Methyl 4-chloro-6-[(1E)-3,3-diethyltriaz-1-en-1-yl]-3′-fluoro-5-[(trimethylsilyl)ethynyl]biphenyl-2-carboxylate | 3.3 g, 86% | ClC=1C=C(C(=C(C1C#C[Si](C)(C)C)\N=N\N(CC)CC)C1=CC(=CC=C1)F)C(=O)OC | C23H27ClFN3O2Si
